* source SNUBBER1
V_V1         N14444 0  AC 9V
+SIN 0V 340V 50Hz 0 0 0
C_C1         0 N14444  10nF  TC=0,0 
C_C2         N14499 N14444  100nF  TC=0,0 
R_R1         0 N14499  1k TC=0,0 
